Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
unsafe home
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ presents due to poor conditions at home. Pt lives alone and 
has a caregiver. Per ___ pt with change in mental status and has 
reportedly been refusing medications for three days, refusing to 
eat or drink and is combative. 
On arrival to ED patient denies any somatic complaints and is 
alert and oriented x2. She denies recent falls and has no signs 
of trauma. Given discrepancy between patient and caregiver 
concerns and question of patient safety at home case management 
and Social work were consulted. 
Pt then reported physical and emotional abuse from her care 
giver to ___ who filed report w/ elder protective services 
against caregiver for physical abuse.
CM in touch with family attempting to facilitate a d/c plan. Pt 
would like to return to her home. This does not appear to be an 
option at this time due to inability to care for herself. Pt 
feels as though she has enough support but acknowledges that she 
lives alone. 

On arrival to floor pt has no somatic complaints. Her family is 
with her at the bedside and she tearfully reports that her 
caregiver is the reason that she's in the hospital. She however 
cannot expound on the details of why "She messed me up. I wasn't 
sick. And I'm not sick now, but she messed me up. She's why I'm 
here." She reports the woman said things which "I cannot repeat. 
I am ___ woman." She also reports that her caregiver 
stole her clothing.

ROS: +as above, otherwise reviewed and negative

 
Past Medical History:
Type II diabetes mellitus  
Hypertension  
s/p mechanical mitral valve replacement ___  
Atrial fibrillation on coumadin  
Hypothyroidism  
Hyperlipidema  
Depression  
Peptic ulcer disease - dx'd by EGD in ___, H.pylori + in 
___  
Diverticulosis on colonoscopy in ___  
L vitreous hemorrhage - followed by Dr. ___ for 
vitrectomy on ___  
R retinal detachment
CKD
Interstitial Lung Disease
h/o CHF - most recent echo ___ w/EF >65%
 
Social History:
___
Family History:
Sister with breast ca. Another sister with ca of unknown 
etiology. No h/o GI disease, IBD.
 
Physical Exam:
Vitals: T:97.3 BP:132/75 P:84 R:18 O2:95%ra  
PAIN: 0
General: nad
Lungs: clear
CV: irreg irreg no m/r/g
Abdomen: bowel sounds present, soft, nt/nd
Ext: no e/c/c
Skin: no rash
Neuro: alert, follows commands

 
Pertinent Results:
___ 01:00PM   GLUCOSE-109* UREA N-30* CREAT-2.0* SODIUM-145 
POTASSIUM-4.1 CHLORIDE-104 TOTAL CO2-27 ANION GAP-18
___ 01:00PM   WBC-3.8* RBC-4.44 HGB-12.5# HCT-40.3 MCV-91 
MCH-28.1 MCHC-31.0 RDW-13.2
___ 01:00PM   NEUTS-61.7 ___ MONOS-5.3 EOS-2.9 
BASOS-1.4
___ 01:00PM   PLT COUNT-173
___ 01:00PM   ___ PTT-40.9* ___
___ 01:00PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 01:00PM URINE  BLOOD-SM  NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-LG
___ 01:00PM URINE  RBC-1 WBC-28* BACTERIA-NONE YEAST-NONE 
EPI-3
___ 01:00PM URINE  HYALINE-3*

HEAD CT Preliminary IMPRESSION: No intracranial hemorrhage or 
acute territorial infarction 

 
Brief Hospital Course:
ASSESSMENT AND PLAN:  ___ yo presents with unsafe home situation 
and concern for elder abuse.

Elder Abuse: Social work and casemanagement as well as nursing 
and primary attending held a family meeting regarding the claims 
of abuse at her prior living situation. The family is looking 
into exactly what happened. No signs of physical injury here. No 
acute medical issues. She was established with placement at 
___ as respite until a permanent situation can be 
determined. 

Chronic Medical Conditions: all stable, cont home meds
-Type II diabetes mellitus - diet controlled 
-Atrial fibrillation - on 5mg coumadin  
-Hypothyroidism - on synthroid 
-Hyperlipidema - on simvastatin 
-Depression/grieving, not currently being treated
-Peptic ulcer disease - omeprazole
-CKD - creatinine stable
-Interstitial Lung Disease - on advair

FULL CODE
CONTACT: Granddaughter ___  ___

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Brimonidine Tartrate 0.15% Ophth. 1 DROP RIGHT EYE TID 
2. Levothyroxine Sodium 88 mcg PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP RIGHT EYE QHS 
5. Simvastatin 40 mg PO DAILY 
6. travoprost 0.004 % OD qhs 
7. Warfarin 5 mg PO DAILY 
8. Furosemide 20 mg PO DAILY 
9. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
10. ClonazePAM 0.5 mg PO DAILY 
11. Lisinopril 5 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Elder Abuse
Diet controlled type II diabetes mellitus  
Atrial fibrillation on coumadin  
Hypothyroidism  
Hyperlipidema  
Depression  
Peptic ulcer disease 
CKD
Interstitial Lung Disease
Chronic Diastolic CHF

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___, 

It was a pleasure taking part in your care. You were admitted to 
___ out of concern that you had been abused at your prior 
home. You had no active medical issues during your amission. You 
were maintained, on all of your home medications. 
 
Followup Instructions:
___